US07790882B2
5-(Cyclopropylmethylene)-2,2-dimethyl-1,3-dioxane-4,6-dione
A 0.5 M solution (13 ml, 6.6 mmol) of cyclopropylmagnesiumbromide in tetrahydrofuran was added dropwise to a solution of 5-dimethylaminomethylene-2,2-dimethyl-1,3-dioxane-4,6-dione (1.0 g, 5.0 mmol) in tetrahydrofuran (12 ml) at 23° C. After stirring the mixture for 1 hr, the reaction solution was quenched with saturated aqueous ammonium chloride solution. The organic layer was separated and the water layer was extracted with dichloromethane. The combined organic layers were washed with water and brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (hexane/EtOAc 5:1) followed by crystallization from hexane to give 498 mg of the pure title product as a pale yellow powder. (yield: 51%)

reactant | cyclopropylmagnesiumbromide | C1(CC1)[Mg]Br
reactant | 5-dimethylaminomethylene-2,2-dimethyl-1,3-dioxane-4,6-dione | 5.0 mmol, 1.0 g | CN(C)C=C1C(OC(OC1=O)(C)C)=O | C9H13NO4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 5-(Cyclopropylmethylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 498 mg, yield: 51% | C1(CC1)C=C1C(OC(OC1=O)(C)C)=O | C10H12O4
